US04731393
18.05 g (0.08 mole) of 2,4-bis-allylamino-6-chloro-1,3,5-triazine and 14.74 g (0.08 mole) of 2-(2,2,6,6-tetramethylpiperid-4-yl)-ethylamine in 130 ml of xylene are heated at reflux temperature for 4 hours, while stirring. 3.5 g (0.088 mole) of finely powdered sodium hydroxides are then added to the reaction mixture in 4 portions over a period of 4 hours, and the mixture is kept at reflux temperature overnight. The reaction mixture is then freed from the precipitated sodium chloride by filtration while hot, the xylene is completely removed by vacuum distillation, and the residue is recrystallised from n-pentane. The 2,4-bis-allylamino-6-[2-(2,2,6,6-tetramethylpiperid-4-yl)-ethylamino]-1,3,5-triazine thus obtained has a melting point of 74°-75° (stabiliser No. 14).

reactant | 2,4-bis-allylamino-6-chloro-1,3,5-triazine | 0.08 mole, 18.05 g | C(C=C)NC1=NC(=NC(=N1)NCC=C)Cl | C9H12ClN5
reactant | 2-(2,2,6,6-tetramethylpiperid-4-yl)-ethylamine | 0.08 mole, 14.74 g | CC1(NC(CC(C1)CCN)(C)C)C | C11H24N2
solvent | xylene | 130 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2,4-bis-allylamino-6-[2-(2,2,6,6-tetramethylpiperid-4-yl)-ethylamino]-1,3,5-triazine | C(C=C)NC1=NC(=NC(=N1)NCC=C)NCCC1CC(NC(C1)(C)C)(C)C | C20H35N7
